US08669234B2
[2-Methanesulfonyl-2-methyl-1-(2-{5-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-propyl]-carbamic acid methyl ester (700 mg, 1.22 mmol) and (1-{2-[5-(4-bromo-phenyl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester (565 mg, 1.26 mmol) in 3:1 DME/H2O (15 mL) were treated with Pd(PPh3)4 (56 mg, 0.0050 mmol) and NaHCO3 (350 mg, 4.15 mmol). The mixture was stirred in a sealed tube at 80° C. for 24 hours. The mixture was filtered through a fitted glass funnel and concentrated. The mixture was subjected to a reverse phase HPLC column (5-95% MeCN—H2O; 0.1% TFA modifier) to afford (2-methanesulfonyl-1-{2-[5-(4′-{2-[1-(2-methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-3H-imidazol-4-yl}-biphenyl-4-yl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester (150 mg, 15%) as a white solid (TFA salt): 1H NMR (CD3OD, 300 MHz) 7.85 (m, 10H), 5.25 (m, 2H), 4.24 (d, J=7.5 Hz, 1H), 4.13 (m, 2H), 3.88 (app d, J=7.5 Hz, 2H), 3.71 (s, 3H), 3.66 (s, 3H), 2.99 (s, 3H), 2.57 (m, 2H), 2.16 (m, 10H), 1.81 (s, 3H), 1.79 (s, 1H), 0.93 (m, 6H); MS (ESI) m/z 818 [M+H]+.

reactant | [2-Methanesulfonyl-2-methyl-1-(2-{5-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-propyl]-carbamic acid methyl ester | 1.22 mmol, 700 mg | COC(NC(C(C)(C)S(=O)(=O)C)C(=O)N1C(CCC1)C=1NC(=CN1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O | C27H39BN4O7S
reactant | (1-{2-[5-(4-bromo-phenyl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester | 1.26 mmol, 565 mg | COC(NC(C(C)C)C(=O)N1C(CCC1)C=1NC(=CN1)C1=CC=C(C=C1)Br)=O | C20H25BrN4O3
reactant | NaHCO3 | 4.15 mmol, 350 mg | C(=O)(O)[O-].[Na+]
catalyst | Pd(PPh3)4 | 0.0050 mmol, 56 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | DME H2O | 15 mL | COCCOC.O
product | (2-methanesulfonyl-1-{2-[5-(4′-{2-[1-(2-methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-3H-imidazol-4-yl}-biphenyl-4-yl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester | 150 mg, 15% | COC(NC(C(C)(C)S(=O)(=O)C)C(=O)N1C(CCC1)C=1NC(=CN1)C1=CC=C(C=C1)C1=CC=C(C=C1)C=1NC(=NC1)C1N(CCC1)C(C(C(C)C)NC(=O)OC)=O)=O | C41H52N8O8S
